US04643990
2,2-Dimethyl-5-(1-hydroxyhexadecylidene)-1,3-dioxane-4,6-dione (200 g) and tert-butyl alcohol (170 g) were refluxed in benzene (1 l) for 4 hours. Evaporation of the solvent gave crude tert-butyl 3-oxooctadecanoate (185 g) as an oil.

reactant | 2,2-Dimethyl-5-(1-hydroxyhexadecylidene)-1,3-dioxane-4,6-dione | 200 g | CC1(OC(C(C(O1)=O)=C(CCCCCCCCCCCCCCC)O)=O)C | C22H38O5
reactant | tert-butyl alcohol | 170 g | C(C)(C)(C)O | C4H10O
solvent | benzene | 1 l | C1=CC=CC=C1 | C6H6
product | tert-butyl 3-oxooctadecanoate | 185 g | O=C(CC(=O)OC(C)(C)C)CCCCCCCCCCCCCCC | C22H42O3
